US09428508B2
To a solution of 6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one (4.5 g, 19.0 mmol) in dimethylformamide (30 mL) at 0° C. was added sodium hydride (60% on mineral oil, 1.15 g, 28.5 mmol) in small portions within 30 minutes. The mixture was stirred for 30 minutes at this temperature followed by adding ethyl iodide (1.84 mL, 22.9 mmol) dropwise. The mixture was warmed to room temperature and stirred for another 2 hours. Upon completion, the mixture was poured into ice-water and filtered to afford the product 1-ethyl-6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one as a off-white solid (3.77 g, yield 78.5%). 1H NMR (400 MHz, CDCl3) δ ppm 7.81-7.84 (dd, 1H, J=1.6 Hz, 8.8 Hz), 7.08-7.10 (dd, 1H, J=1.2 Hz, 8.8 Hz), 3.76-3.94 (s+m, 5H), 2.89-2.96 (m, 2H), 2.22-2.32 (m, 4H), 1.16-1.26 (m, 3H).

reactant | 6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 19.0 mmol, 4.5 g | COC1=C(C=CC=2NC(CCCC21)=O)[N+](=O)[O-] | C11H12N2O4
reactant | sodium hydride | 28.5 mmol, 1.15 g | [H-].[Na+]
reactant | ethyl iodide | 22.9 mmol, 1.84 mL | C(C)I | C2H5I
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-ethyl-6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 3.77 g, yield 78.5% | C(C)N1C2=C(CCCC1=O)C(=C(C=C2)[N+](=O)[O-])OC | C13H16N2O4
